US09314464B2
A solution of Intermediate 1-benzylidene-2-isopropylhydrazine (12.9 g, 0.079 mol) in 200 ml anhydrous THF was cooled in a dry ice/acetone bath under an argon atmosphere. To this solution was added n-butyllithium (1.6 M in hexanes, 66 ml, 0.106 mol) via syringe. Following completion of the addition, the mixture was stirred at dry-ice temperature for an additional 5 minutes. A solution of (2-(ethoxymethylene)malononitrile (13.6 g, 0.11 mol) in THF (30 ml) was added. The mixture was stirred at dry-ice temperature for 0.5 h, and then was quenched with saturated aqueous sodium bicarbonate solution. The quenched reaction mixture was allowed to warm to rt and was extracted with ethyl acetate. The organic layers were combined, dried over sodium sulfate, filtered, and concentrated. The residue was suspended in ethanol with sonication. The resulting precipitate was collected via filtration and washed with a small amount of cold ethanol to obtain 2-((2-benzylidene-1-isopropylhydrazinyl)methylene)malononitrile as a yellow solid. The mother liquor was concentrated and the residue purified by silica gel column chromatography (1:1 hexanes/ethyl acetate eluant) to afford additional 2-((2-benzylidene-1-isopropylhydrazinyl)methylene)malononitrile. MS m/z 239.2 (M+1).

reactant | 1-benzylidene-2-isopropylhydrazine | 0.079 mol, 12.9 g | C(C1=CC=CC=C1)=NNC(C)C | C10H14N2
reactant | n-butyllithium | 0.106 mol, 1.6 M, 66 ml | C(CCC)[Li]
reactant | dry-ice | C(=O)=O | CO2
reactant | 2-(ethoxymethylene)malononitrile | 0.11 mol, 13.6 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-((2-benzylidene-1-isopropylhydrazinyl)methylene)malononitrile | C(C1=CC=CC=C1)=NN(C(C)C)C=C(C#N)C#N | C14H14N4
